US05763439
Preparation of 2-tert-butyl-4-methylthio-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one (Compound No. 7)
Into 7 ml of an absolute methanol solution of 0.91 g of 2-tert-butyl-4-methylthio-5-(4-pyridylimino)pyridazin-3-(2H)-one, 0.07 g of sodium borohydride was added in a few times under cooling with ice. The mixture was stirred for 20 minutes. Methanol was distilled off under reduced pressure, and the residue was extracted with ethyl acetate. The extract was washed twice with water and dried over anhydrous sodium sulfate. Then, ethyl acetate was distilled off under reduced pressure, and the residue was subjected to column chromatography. Using an eluent (n-hexane:ethyl acetate=1:9), 0.58 g of the desired product (Compound No. 7) having a melting point of 107° to 110° C. was obtained.

reactant | 2-tert-butyl-4-methylthio-5-(4-pyridylimino)pyridazin-3-(2H)-one | 0.91 g | C(C)(C)(C)N1N=CC(C(C1=O)SC)=NC1=CC=NC=C1 | C14H18N4OS
reactant | sodium borohydride | 0.07 g | [BH4-].[Na+]
solvent | methanol | 7 ml | CO | CH4O
product | 2-tert-butyl-4-methylthio-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one | C(C)(C)(C)N1N=CC(=C(C1=O)SC)NCC1=CC=NC=C1 | C15H20N4OS
